data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_245969_0,[C:1](/[C:6](=[C:2](\[C:3]([N:5]([H:10])[H:11])=[C:7]([H:13])[H:14])[N:4]([H:8])[H:9])[H:12])([H:15])([H:16])[H:17]>>[C:1]([C@:6]1([H:12])[C:2]([N:4]([H:8])[H:9])=[C:3]([N:5]([H:10])[H:11])[C:7]1([H:13])[H:14])([H:15])([H:16])[H:17],43.9808474999974
MR_265372_0,[C:1](/[C:3](=[N:2]/[O:4][H:9])[O:6][H:7])([O:5][H:8])([H:10])[H:11]>>[C:1]([C:3]([N:2]([O:4][H:7])[H:9])=[O:6])([O:5][H:8])([H:10])[H:11],48.338207499982246
MR_695269_0,[C:1]([C:2]([C:4]([C:3](=[O:7])[H:11])([O:8][H:9])[H:12])=[C:5]([H:13])[H:14])(=[O:6])[H:10]>>[C:1]([C:2]([C:4](=[O:8])[H:12])=[C:5]([H:13])[H:14])([C:3](=[O:7])[H:11])([O:6][H:9])[H:10],62.8729899999891
MR_433658_0,[N:1]([C:3](=[C:2]([O:5][H:9])[O:6][H:10])[O:7][H:11])([O:4][H:8])[H:12]>>[N:1]1([H:12])[C@:3]([C:2]([O:5][H:9])([O:6][H:10])[H:8])([O:7][H:11])[O:4]1,64.25537249999451
MR_460081_0,[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])/[C:8]([C:7]([H:25])([H:26])[H:27])=[N:10]/[H:12])([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[O:9][H:11]>>[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[C:8]([C:4]([H:16])([H:17])[H:18])([C:7]([H:25])([H:26])[H:27])[N:10]([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])=[O:9],51.19270500001619
MR_394525_1,[C:1]1([H:12])([H:13])[C@@:4]([O:7]/[C:2]([N:3]([H:8])[H:9])=[N:6]\[H:10])([H:11])[O:5]1>>[C:1](/[C:2]([N:3]([H:8])[H:9])=[N:6]\[H:10])([O:5][C:4](=[O:7])[H:11])([H:12])[H:13],58.54198499997338
MR_600297_1,[C:1](=[N:8][C:3]([C:2]([O:7][H:10])=[O:9])([N:4]([H:11])[H:12])[C:5](=[C:6]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:1]([C:5](=[C:6]([H:16])[H:17])[H:15])(/[N:8]=[C:3](\[C:2]([O:7][H:10])=[O:9])[N:4]([H:11])[H:12])([H:13])[H:14],69.77988249995747
MR_471371_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])([O:7][H:9])[N:8]=[C:4]([N:5]([H:11])[H:12])[N:6]([H:10])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])=[N:8][C:4]([N:5]([H:11])[H:12])([N:6]([H:10])[H:13])[O:7][H:9],57.80592749997695
MR_422777_0,[C@:1]([C:3]([H:17])([H:18])[H:19])([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])(/[C:6]([C:4]([H:20])([H:21])[H:22])=[C:8](\[N:7]([H:11])[H:12])[H:13])[H:10]>>[C@@:1]1([C:3]([H:17])([H:18])[H:19])([H:10])[C@@:6]([C:4]([H:20])([H:21])[H:22])([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])[C@:8]1([N:7]([H:11])[H:12])[H:13],70.5567274999936
MR_526357_2,[C:1]1([H:13])([H:14])[C:3]([C:2]([N:5]([H:11])[H:12])=[O:8])([O:7][N:4]([H:9])[H:10])[C:6]1([H:15])[H:16]>>[C:1](=[C:3]([C:2]([N:5]([H:11])[H:12])=[O:8])[C:6]([O:7][N:4]([H:9])[H:10])([H:15])[H:16])([H:13])[H:14],68.39938250001865
MR_69678_0,[C:1]1([O:4][H:7])([O:5][H:8])[C:2]([O:6][H:9])([H:10])[C:3]1([H:11])[H:12]>>[C:1](/[C:3](=[C:2](/[O:6][H:9])[H:10])[H:11])([O:4][H:7])([O:5][H:8])[H:12],51.11866000002479
MR_439816_1,[C:1]([c:4]1[o:6][c:2]([N:5]([H:10])[H:11])[c:3]([O:7][H:9])[n:8]1)([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[N:8][C@@:3]1([C:2]([N:5]([H:10])[H:11])=[O:6])[O:7][H:9])([H:12])([H:13])[H:14],67.5227650000204
MR_141632_1,[C:1]1([N:5]([H:9])[H:10])([H:7])[C:2]([C:3]([H:11])([H:12])[H:13])([H:8])[N:4]1[H:6]>>[C:1](\[C:2]([C:3]([H:11])([H:12])[H:13])([N:5]([H:9])[H:10])[H:8])(=[N:4]\[H:6])[H:7],65.08555500000298
MR_493812_1,[C:1](/[C:5](=[C:3](/[C:4](=[C:2]([O:6][H:10])[O:7][H:9])[H:12])[O:8][H:11])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:5]1([H:13])[C:2]([O:6][H:10])([O:7][H:9])[C:4]([H:12])=[C:3]1[O:8][H:11])([H:14])([H:15])[H:16],36.934022499989965
MR_235306_0,[C:1]([C:2](=[C:4]([H:9])[H:10])[H:6])(=[C:3]([H:7])[H:8])[H:5]>>[C:1]1([H:5])=[C:2]([H:6])[C:4]([H:9])([H:10])[C:3]1([H:7])[H:8],48.248474999994784
MR_343075_0,[C:1]([C:2]([O:5][H:9])=[O:6])([O:3][H:7])([O:4][H:8])[H:10]>>[C:1]1([O:3][H:7])([H:10])[C:2]([O:4][H:8])([O:5][H:9])[O:6]1,68.49476249999185
MR_153084_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:4](=[C:7]([H:19])[H:20])[O:8][C:3](=[C:6]([H:17])[H:18])[O:9][H:10])([N:5]([H:12])[H:13])[H:11]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:4]([C:7]([C:3](=[C:6]([H:17])[H:18])[O:9][H:10])([H:19])[H:20])=[O:8])([N:5]([H:12])[H:13])[H:11],68.44267999998067
MR_409566_2,[C:1]([C:4]([O:7][H:11])=[O:9])([O:5][C:2]([C:3]([H:15])([H:16])[H:17])([O:8][H:12])[H:14])([O:6][H:10])[H:13]>>[C:1]([C:4]([O:7][H:11])([O:9][H:12])[H:14])([O:5][C:2]([C:3]([H:15])([H:16])[H:17])=[O:8])([O:6][H:10])[H:13],45.64999750002784
MR_432840_0,[C:1](\[C:2]([N:4]([H:11])[H:12])=[C:6]([H:14])[H:15])([N:3]([H:9])[H:10])=[C:5](/[O:7][H:8])[H:13]>>[C:1]1([N:3]([H:9])[H:10])=[C:2]([N:4]([H:11])[H:12])[C:6]([H:14])([H:15])[C:5]1([O:7][H:8])[H:13],35.741144999969805
MR_155087_1,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]/[N:5]([H:10])[H:11])([N:6]=[O:8])[H:9]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:4](/[C:3]([H:15])([H:16])[H:17])[N:7]([N:5]([H:10])[H:11])[N:6]=[O:8])[H:9],23.86382499999499
MR_289487_1,[C:1](/[C:4](=[N:7]/[H:11])[H:14])(/[N:6]=[C:2](\[N:3]([H:9])[H:10])[O:5][H:8])([H:12])[H:13]>>[C:1]1([H:12])([H:13])/[C:4](=[N:7]/[H:11])[N:6]1[C:2]([N:3]([H:9])[H:10])([O:5][H:8])[H:14],69.34188749999322
